US04474779
To a mixture of 4 ml of methylene dichloride and 1 ml of anisole was added 2.61 g (0.0033 mole) of benzhydryl (Z)-2-(α-tert-butoxycarbonylbenzyloximino)-2-(2-tritylaminothiazol-4-yl)acetate and after cooling the mixture to -30° C., 3 ml of trifluoroacetic acid was added dropwise to the mixture at a temperature below -20° C. over a period of 5 minutes. Thereafter, the mixture was maintained for one hour at -20° C. to -15° C. and then, methylene dichloride and trifluoroacetic acid were distilled off at low temperature under reduced pressure to provide an oily product. The oily product was subjected to silica gel column chromatography, eluted with a mixture of chloroform, isopropyl alcohol, and formic acid (90:10:2), the fractions containing the desired product were collected, and the solvents were distilled off to provide 1.15 g (Z)-(α-tert-butoxycarbonylbenzyloximino)-2-(2-tritylaminothiazol-4-yl)acetic acid.

reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | benzhydryl (Z)-2-(α-tert-butoxycarbonylbenzyloximino)-2-(2-tritylaminothiazol-4-yl)acetate | 0.0033 mole, 2.61 g | C(C)(C)(C)OC(=O)C(C1=CC=CC=C1)O\N=C(/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H43N3O5S
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene dichloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (Z)-(α-tert-butoxycarbonylbenzyloximino)-2-(2-tritylaminothiazol-4-yl)acetic acid | 1.15 g | C(C)(C)(C)OC(=O)C(C1=CC=CC=C1)O\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H33N3O5S
